US05623072
5-Chloro-3-[3-(trifluoromethyl)phenyl]pyridazine (4 g, 0.015 mole, Compound No. 5) and NaOMe in MeOH (16.71 g of a 25% by weight solution, 0.077 mole) were stirred at RT under N2 in MeOH (100 mL) for 4 h. The mixture was then partitioned between ethyl acetate and water. The organic layer was dried (MgSO4), filtered and evaporated in vacuo. The crude solid was recrystallized from ethyl acetate/cyclohexane to give 5-methoxy -3-[3-(trifluoromethyl)phenyl]pyridazine (2.92 g, 74% yield, Compound No. 8) as a brown solid.

reactant | 5-Chloro-3-[3-(trifluoromethyl)phenyl]pyridazine | 0.015 mole, 4 g | ClC=1C=C(N=NC1)C1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | MeOH | 100 mL | CO | CH4O
product | 5-methoxy -3-[3-(trifluoromethyl)phenyl]pyridazine | 74% yield | COC=1C=C(N=NC1)C1=CC(=CC=C1)C(F)(F)F | C12H9F3N2O
